US08383659B2
LiOH (3.2 g) is added to a solution of 5-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-3-methyl-thiophene-2-carboxylic acid ethyl ester (9.88 g) in a mixture of THF and water (240 ml, 9:1). After 16 hours at room temperature, LiOH (1.05 g) and THF (150 ml) was added. The reaction mixture was heated at 50° C. for 10 hours. HCl (2N) was added to the reaction mixture until pH 1-2 was obtained. The mixture was then extracted three times with ethyl acetate. The organic phases were combined, washed with water and a saturated aqueous solution of NaCl, dried over Na2SO4 and concentrated in vacuo to yield 5-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-3-methyl-thiophene-2-carboxylic acid (9.3 g) as brown resin. The crude product is used without further purification.

reactant | LiOH | 3.2 g | [Li+].[OH-]
reactant | 5-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-3-methyl-thiophene-2-carboxylic acid ethyl ester | 9.88 g | C(C)OC(=O)C=1SC(=CC1C)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H14Cl2F3NO3S
reactant | LiOH | 1.05 g | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 240 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-3-methyl-thiophene-2-carboxylic acid | 9.3 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(S1)C(=O)O)C)C(F)(F)F | C16H10Cl2F3NO3S
